US04730061
N-(2-Chloro-6-methylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide
The title compound was prepared from N-(2-chloro-6-methylphenyl)-3-oxo-butanamide and N,N-dimethylhydrazine as the raw materials in a similar manner to the method described in Example 2. (Yield: 45%).

reactant | N-(2-chloro-6-methylphenyl)-3-oxo-butanamide | ClC1=C(C(=CC=C1)C)NC(CC(C)=O)=O | C11H12ClNO2
reactant | N,N-dimethylhydrazine | CN(N)C | C2H8N2
product | N-(2-Chloro-6-methylphenyl)-2,6-dimethyl-4-oxo-4H-pyran-3-carboxamide | Yield: 45% | ClC1=C(C(=CC=C1)C)NC(=O)C1=C(OC(=CC1=O)C)C | C15H14ClNO3
